US07807659B2
Method B: (S)-1-(Benzyloxycarbonyl)-2-piperidine-carboxylic acid
A stirred solution of (S)-1-(benzyloxy-carbonyl)-2-piperidinecarboxylic acid methyl ester (2.00 g, 7.21 mmol) in THF (20 ml) at room temperature was treated with water (10 ml). Lithium hydroxide (190 mg, 7.93 mmol) was added and the resulting mixture stirred at room temperature for 3 hr. An additional quantity of lithium hydroxide (40 mg, 1.67 mmol) was added and the resulting mixture was stirred for 2 hr prior to the removal of the organic solvent. The resulting solution was washed with diethyl ether and the remaining aqueous layer was made acidic with 2 N HCl prior to a second extraction step with ethyl acetate. The organic layer was then recovered, dried (Na2SO4), filtered and concentrated to reveal a colorless oil (1.9927 g, 105%) which crystallized upon standing: 1H NMR (400 MHz, CDCl3) δ 1.30-1.88 (5H, m), 2.22-2.41 (1H, m), 3.00-3.21 (1H, m), 4.08-4.25 (1H, m), 4.91-5.30 (3H, m), 7.27-7.48 (5H, m).

reactant | (S)-1-(benzyloxy-carbonyl)-2-piperidinecarboxylic acid methyl ester | 7.21 mmol, 2.00 g | COC(=O)[C@H]1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C15H19NO4
reactant | water | 10 ml | O | H2O
reactant | Lithium hydroxide | 7.93 mmol, 190 mg | [OH-].[Li+]
reactant | lithium hydroxide | 1.67 mmol, 40 mg | [OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (S)-1-(Benzyloxycarbonyl)-2-piperidine-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCCC1)C(=O)O | C14H17NO4
